subckt lvldbuf_x1 VDD VSS VDDR VBP VBN X A
* Power-management helper: ref_lib-style rails listed first.
I1P (n_buf A VDDR VBP) pmos w=2u l=100n
I1N (n_buf A VSS VBN) nmos w=1u l=100n
I2P (X n_buf VDDR VBP) pmos w=2u l=100n
I2N (X n_buf VSS VBN) nmos w=1u l=100n
ends lvldbuf_x1
